*SPICE model for AT-30533

.SUBCKT AT30533 60      20      40
LL1     20      25      .05NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    25      0       .11PF
LT1     25      30      .40NH
C2T1    30      0       .11PF
*
LLB     30      35      .5NH
CCEB    30      50      .04PF
LL2     40      45      .05NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    45      0       .09PF
LT2     45      50      .33NH
C2T2    50      0       .09PF
*
LLE     50      55      .5NH
CCEC    50      70      .01PF
LL3     60      65      .05NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    65      0       .13PF
LT3     65      70      .47NH
C2T3    70      0       .13PF
*
CCBC    30      70      .04PF
* CALL DIE MODEL
XDIE    70      35      55      AT305
.ENDS

** DIE MODEL (excludes bond wires)
.SUBCKT AT305   75      20      85
CBBP    20      75      .03PF
CEBP    85      75      .03PF
QINT    75      20      85      Q305     
.ENDS

.MODEL  Q305    NPN (BF=100, BR=2.5, IS=7.8E-17, VA=20, 
+               TF=12PS, CJE=1.1E-13, VJE=1.01, MJE=0.6, 
+               PTF=25, XTB=1.818, VTF=6, ITF=1.4E-2, 
+               IKF=6.3E-3, XTF=4, NF=1.03, ISE=2.4E-13, 
+               NE=2.5, RB=38.49, RE=2.44, RC=61.57,
+               CJC=5.1E-14, CJS=7E-14, XCJC=0.19, PS=0.8, 
+               MS=0.5, PC=0.76, MC=0.53)